US04929613
Ethyl 7-(1-acetyl-4-piperidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate.
A solution of 3.49 g (8.30 mmol) ethyl 4-(1-acetyl-4-piperidinyl)-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropionate in 35 ml of t-butyl alcohol was treated with 0.93 g (8.30 mmol) potassium t-butoxide and stirred in an oil bath at 65° for 1.5 hours. The mixture was evaporated under vacuum and the residue extracted with 0.5 N hydrochloric acid. The organic layer was dried (MgSO4) and evaporated. The title compound was isolated by chromatography on silica gel and crystallization from toluene, mp 195°-201° C.

reactant | ethyl 4-(1-acetyl-4-piperidinyl)-α-[(cyclopropylamino)methylene]-2,5-difluoro-β-oxobenzenepropionate | 8.30 mmol, 3.49 g | C(C)(=O)N1CCC(CC1)C1=CC(=C(C=C1F)C(C(C(=O)OCC)=CNC1CC1)=O)F | C22H26F2N2O4
reactant | potassium t-butoxide | 8.30 mmol, 0.93 g | CC(C)([O-])C.[K+]
solvent | t-butyl alcohol | 35 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 7-(1-acetyl-4-piperidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | C(C)(=O)N1CCC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C22H25FN2O4
